US07157584B2
5-oxotetrahydro-2-furanyl 2-ethoxy-1-{[2′-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)biphenyl-4-yl]methyl}-1H-benzimidazole-7-carboxylate
To a solution of 2-ethoxy-1-{[2′-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)biphenyl-4-yl]methyl}-1H-benzimidazole-7-carboxylic acid (4.0 g) and triethylamine (1.3 mL) in THF (50 mL) was added dropwise 2,4,6-trichlorobenzoyl chloride (1.4 mL) under ice-cooling. After stirring at room temperature for 12 hrs., insoluble material was filtered off and the filtrate was concentrated. The residue was dissolved in methylene chloride (50 mL) and 5-oxotetrahydro-2-furanyl (0.67 g) and N,N-dimethylaminopyridine (1.0 g) were added under ice-cooling. After stirring at room temperature for 4 hrs., the reaction mixture was diluted with chloroform (150 mL), washed with water, saturated aqueous sodium hydrogen carbonate, 1 N hydrochloric acid and saturated brine, dried over anhydrous sodium sulfate and concentrated. The residue was purified by silica gel column chromatography to give the title compound (0.16 g, 3.3%) as a colorless solid.

reactant | 2-ethoxy-1-{[2′-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)biphenyl-4-yl]methyl}-1H-benzimidazole-7-carboxylic acid | 4.0 g | C(C)OC1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NOC(N1)=O)C(=CC=C2)C(=O)O | C25H20N4O5
reactant | triethylamine | 1.3 mL | C(C)N(CC)CC | C6H15N
reactant | 2,4,6-trichlorobenzoyl chloride | 1.4 mL | ClC1=C(C(=O)Cl)C(=CC(=C1)Cl)Cl | C7H2Cl4O
reactant | THF | 50 mL | C1CCOC1 | C4H8O
product | 5-oxotetrahydro-2-furanyl 2-ethoxy-1-{[2′-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)biphenyl-4-yl]methyl}-1H-benzimidazole-7-carboxylate | 0.16 g, 3.3% | C(C)OC1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NOC(N1)=O)C(=CC=C2)C(=O)OC2OC(CC2)=O | C29H24N4O7
